US06630509B2
(b) 2-[4-(Methoxymethyl)phenyl]ethanol
[4-(Methoxymethyl)phenyl]acetic acid (3.6 g, 20 mmole) was dissolved in THF (100 ml) and cooled on an ice-bath. BH3xTBT (1M, 40 ml, 40 mmole) was added. The reaction mixture was stirred for 6 h and then quenched with HCl (1M, 80 ml) and water (˜100 ml). THF was evaporated and the residue extracted with dicloromethane and ethyl acetate. The phases were separated and the organic phase was washed with HCl (0.3M, 100 ml and dried with Na2SO4. Evaporation gave 3.31 g, 99.6%, of the desired product.

reactant | [4-(Methoxymethyl)phenyl]acetic acid | 20 mmole, 3.6 g | COCC1=CC=C(C=C1)CC(=O)O | C10H12O3
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 2-[4-(Methoxymethyl)phenyl]ethanol | COCC1=CC=C(C=C1)CCO | C10H14O2
